US05679694
Ethyl 1,5-dihydroindeno[2,1-f]indole-2-carboxylate
Ethyl 2-azido-3-fluoren-2-ylacrylate suspended in dry toluene was heated at reflux for 1 h, and the resulting solution was then evaporated to dryness in vacuo. The resulting mixture of ethyl 1,5-dihydroindino[2,1-f]indole-2-carboxylate and ethyl 1,10-dihydroindino[1,2-g]-indole-2-carboxylate was crystallised from ethanol, thus removing most of the [1,2 g] isomer and leaving the title compound (contained with approximately 30% of the [1,2-g]isomer) in the mother liquors which were evaporated to dryness. δH (CDCl3) 9.11 (1H, s, br, 1-NH), 7.82-7.76 (3H, m), 7.56-7.52 (1H, m), 7.37 (H, dd, J 1 and 7), 7.34-7.28 (1H, m), 7.25 (1H, dd, J 1 and 2), 4.45 (2H, q, OCH2CH3), 3.97 (2H, s, CH2) and 1.46 (3H, t, OCH2CH3).

reactant | Ethyl 2-azido-3-fluoren-2-ylacrylate | N(=[N+]=[N-])C(C(=O)OCC)=CC1=CC=2CC3=CC=CC=C3C2C=C1 | C18H15N3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 1,5-dihydroindeno[2,1-f]indole-2-carboxylate | N1C(=CC2=CC3=C(C=C12)C1=CC=CC=C1C3)C(=O)OCC | C18H15NO2
